US08283353B2
ethyl [(4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-2-methyl-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]acetate
To a mixture of 4′-{[4-(4-hydroxycyclohexyl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (1.2 g), rhodium(I) acetate (0.055 g) and toluene (40 mL) was added dropwise ethyl diazoacetate (1.2 mL) at 80° C., and the mixture was stirred at the same temperature for 1 hr. The reaction mixture was concentrated under reduced pressure, and the obtained residue was subjected to silica gel column chromatography to give the title compound as a colorless solid (1.1 g, 76%).

reactant | 4′-{[4-(4-hydroxycyclohexyl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 1.2 g | OC1CCC(CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=C(N2)C | C29H31N5O2
reactant | ethyl diazoacetate | 1.2 mL | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
catalyst | rhodium(I) acetate | 0.055 g | C(C)(=O)[O-].[Rh+]
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl [(4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-2-methyl-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]acetate | 1.1 g, 76% | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC=1C(N(C=2N(C1CCC)N=C(N2)C)C2CCC(CC2)OCC(=O)OCC)=O | C33H37N5O4
